US04036986
Following the procedure described in Example 1, process variant (a), 23 g of N-(4-bromobenzyl)-N-isopropylamine were reacted with 14 g of phenyl isothiocyanate. 32 g of N-(4-bromobenzyl)-N-isopropyl-N'-phenylthiourea were obtained. Yield: 88%. Melting point: 133.5°-134.5° C.

reactant | N-(4-bromobenzyl)-N-isopropylamine | 23 g | BrC1=CC=C(CNC(C)C)C=C1 | C10H14BrN
reactant | phenyl isothiocyanate | 14 g | C1(=CC=CC=C1)N=C=S | C7H5NS
product | N-(4-bromobenzyl)-N-isopropyl-N'-phenylthiourea | 32 g, Yield: 88% | BrC1=CC=C(CN(C(=S)NC2=CC=CC=C2)C(C)C)C=C1 | C17H19BrN2S
